US05003115
4-Acetoxyphenethyl alcohol
A 300 ml Fluitron autoclave (Hastelloy C) is charged with 69.5 g crude acetoxystyrene oxirane (86%; 0.335 mol), 200 ml ethanol and 1.6 g Pd/C (5% Pd on carbon; 47.8% H2O). After sealing, the stirrer is started, and the autoclave purged with nitrogen and hydrogen and then pressurized to 400 psig with hydrogen. The H2 pressure is kept constant during the one hour reaction period. The autoclave is vented and purged with N2. The reaction mixture is sucked out of the reactor (63.2 g ethanol rinse) and filtered (23.7 g ethanol rinse).

reactant | acetoxystyrene oxirane | 0.335 mol, 69.5 g | O1CC1.C(C)(=O)OC=CC1=CC=CC=C1
reactant | ethanol | 200 ml | C(C)O | C2H6O
catalyst | Hastelloy C | [Cr].[Co]
catalyst | Pd/C | 1.6 g | [Pd] | Pd
product | 4-Acetoxyphenethyl alcohol | C(C)(=O)OC1=CC=C(CCO)C=C1 | C10H12O3
